US09120749B2
[4-(4-Amino-4-methylcyclohexylamino)-6-(3-chloro-4-hydroxy-5-methoxyphenyl)quinolin-3-yl](cyclopropyl)methanone
To a solution of {6-(3-chloro-4-hydroxy-5-methoxyphenyl)-4-[4-(diallylamino)-4-methylcyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone (49 mg, 0.088 mmol) in dioxane (3 mL) was added Pd(PPh3)4 (10 mg, 0.008 mmol) and N,N-dimethylbartituric acid (68 mg, 0.438 mmol). The resultant mixture purged with N2 and heated to 80° C. for 16 h. The solution was allowed to cool to rt, diluted with ethyl acetate, filtered and concentrated. The resultant residue was purified by preparative HPLC (C18 silica, 10-90% acetonitrile/water with 0.05% TFA). The purified product was concentrated, diluted with a saturated NaHCO3 solution, extracted with a mixture of CHCl3/isopropanol (3:1), and dried with Na2SO4 to obtain the desired product as the free base (5 mg, 4%) as a yellow solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.14 (s, 1H), 8.34 (s, 1H), 8.00 (dd, J=8.7, 2.0 Hz, 1H), 7.89 (d, J=8.7 Hz, 1H), 7.26 (d, J=2.2 Hz, 1H), 7.20 (d, J=2.2 Hz, 1H), 4.29-4.21 (m, 1H), 3.97 (s, 3H), 2.89-2.80 (m, 1H), 2.14-2.07 (m, 2H), 1.92-1.71 (m, 4H), 1.70-1.61 (m, 2H), 1.28 (s, 3H), 1.25-1.06 (m, 4H); ESI MS m/z 480 [C27H30ClN3O3+H]+; HPLC>99% (AUC), tR=10.46 min.

reactant | {6-(3-chloro-4-hydroxy-5-methoxyphenyl)-4-[4-(diallylamino)-4-methylcyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone | 0.088 mmol, 49 mg | ClC=1C=C(C=C(C1O)OC)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1CCC(CC1)(C)N(CC=C)CC=C | C33H38ClN3O3
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.008 mmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [4-(4-Amino-4-methylcyclohexylamino)-6-(3-chloro-4-hydroxy-5-methoxyphenyl)quinolin-3-yl](cyclopropyl)methanone | NC1(CCC(CC1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)OC)O)Cl)C(=O)C1CC1)C | C27H30ClN3O3
